data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_434326_2,[C:1]1([N:5]([H:11])[H:12])([H:10])[C:4]([N:3]([C:2]([H:15])([H:16])[H:17])[H:9])([C:6](=[C:7]([H:18])[H:19])[H:14])[N:8]1[H:13]>>[C:1]([N:3]([C:2]([H:15])([H:16])[H:17])[H:9])(/[C:4]([C:6](=[C:7]([H:18])[H:19])[H:14])=[N:8]\[H:13])([N:5]([H:11])[H:12])[H:10],42.08391499997134
MR_127914_1,[C:1]([C:3]([N:4]([H:11])[H:12])=[O:8])(/[C:5](=[C:6](\[C:2]([H:15])([H:16])[H:17])[H:14])[H:13])([O:7][H:9])[H:10]>>[C:1]([C:3]([N:4]([H:11])[H:12])(/[C:5](=[C:6](\[C:2]([H:15])([H:16])[H:17])[H:14])[H:13])[O:8][H:9])(=[O:7])[H:10],55.41389750002381
MR_125056_2,[C@:1]([C:2]([H:13])([H:14])[H:15])(/[C:4](=[C:6](\[C:3]([H:16])([H:17])[H:18])[H:12])[H:10])([C:5](=[C:7]([H:19])[H:20])[H:11])[O:8][H:9]>>[C:1]1([C:2]([H:13])([H:14])[H:15])([O:8][H:9])[C:4]([C:5](=[C:7]([H:19])[H:20])[H:11])([H:10])[C:6]1([C:3]([H:16])([H:17])[H:18])[H:12],71.18109000002235
MR_623198_0,[C@@:1]1([C:5]([O:7][H:9])=[O:8])([H:10])[C@:2]([N:6]([H:13])[H:14])([H:11])[C@@:3]1([C:4]([H:15])([H:16])[H:17])[H:12]>>[C:1](=[C:2](/[N:6]([H:13])[H:14])[H:11])(\[C@:3]([C:4]([H:15])([H:16])[H:17])([C:5]([O:7][H:9])=[O:8])[H:12])[H:10],72.19889499998516
MR_703076_0,[C:1]([N:2]([C:3](/[N:5]=[N:6]/[H:9])=[N:7]\[H:10])[O:4][H:8])([H:11])([H:12])[H:13]>>[C:1]([N:2](/[C:3]([O:4][H:8])=[N:7]/[H:10])/[N:5]=[N:6]/[H:9])([H:11])([H:12])[H:13],61.61736250002036
MR_147014_2,[C:1]1([C:3]([H:14])([H:15])[H:16])([H:10])[C:6]([C:4]([H:17])([H:18])[H:19])(/[C:7](=[N:5]/[H:9])[H:13])[C:2]([H:11])([H:12])[O:8]1>>[C:1]1([C:3]([H:14])([H:15])[H:16])([H:10])[C:6]([C:4]([H:17])([H:18])[H:19])=[C:7]([H:13])[N:5]([H:9])[C:2]([H:11])([H:12])[O:8]1,63.49107749999803
MR_391832_2,[C:1]([C:3]([H:18])([H:19])[H:20])([C:6](=[O:10])[H:13])(/[C:7](=[C:5](\[C:2]([H:15])([H:16])[H:17])[C:4]([O:8][H:11])=[O:9])[H:14])[H:12]>>[C:1](\[C:3]([H:18])([H:19])[H:20])(=[C:7](/[C:5]([C:2]([H:15])([H:16])[H:17])([C:4]([O:8][H:11])=[O:9])[C:6](=[O:10])[H:13])[H:14])[H:12],54.39044500000392
MR_508159_1,[C:1]([C:5]1(/[C:6]([C:2]([H:16])([H:17])[H:18])=[N:3]/[N:7]([H:10])[H:11])/[C:4](=[N:9]/[H:12])[O:8]1)([H:13])([H:14])[H:15]>>[C:1]([c:5]1[c:6]([C:2]([H:16])([H:17])[H:18])[n:3]([N:7]([H:10])[H:11])/[c:4](=[N:9]/[H:12])[o:8]1)([H:13])([H:14])[H:15],52.86624749999987
MR_498703_0,[C:1](\[N:3]([H:8])[H:9])([C:4]1([H:13])/[C:2](=[N:6]\[H:11])[N:7]1[H:12])=[N:5]\[H:10]>>[C:1]([N:3]([H:8])[H:9])([C:4](/[C:2](=[N:6]\[H:11])[H:13])=[N:7]/[H:12])=[N:5]\[H:10],55.30283000001887
MR_616813_0,[C:1](/[C:2](=[C:5](/[N:4]([H:13])[H:14])[H:15])[O:7][H:10])([O:6][H:9])=[N:8]/[N:3]([H:11])[H:12]>>[C:1]1([O:6][H:9])=[C:2]([O:7][H:10])[C:5]([N:4]([H:13])[H:14])([H:15])[N:8]1[N:3]([H:11])[H:12],43.78130250000183
MR_500685_0,[C:1]([C:7]([C:2]([H:18])([H:19])[H:20])[C:5]([C:6]([C:8]([C:3]([H:21])([H:22])[H:23])[C:4]([H:24])([H:25])[H:26])[N:10]([H:13])[H:14])[N:9]([H:11])[H:12])([H:15])([H:16])[H:17]>>[C:1]([C:7]1([C:2]([H:18])([H:19])[H:20])[C:5]([N:9]([H:11])[H:12])=[C:6]([N:10]([H:13])[H:14])[C:8]1([C:3]([H:21])([H:22])[H:23])[C:4]([H:24])([H:25])[H:26])([H:15])([H:16])[H:17],40.043285000022735
MR_643207_2,[C:1](/[N:7]=[C:4](\[C:2]([H:13])([H:14])[H:15])[O:6]/[C:5]([C:3]([H:16])([H:17])[H:18])=[N:8]/[H:9])([H:10])([H:11])[H:12]>>[C:1]([N:7]([C:4]([C:2]([H:13])([H:14])[H:15])=[O:6])/[C:5]([C:3]([H:16])([H:17])[H:18])=[N:8]/[H:9])([H:10])([H:11])[H:12],33.65219750000051
MR_396381_2,[C:1]([C:2]([O:7][H:12])([O:8][H:13])[H:14])([C:4]([C:3]([H:15])([H:16])[H:17])=[O:9])([O:5][H:11])[O:6][H:10]>>[C:1]([C:2](=[O:7])[H:14])([C:4]([C:3]([H:15])([H:16])[H:17])([O:8][H:13])[O:9][H:12])([O:5][H:11])[O:6][H:10],42.340562499965415
MR_626638_0,[C:1]([N:3]([C:2]([H:16])([H:17])[H:18])/[C:4](=[C:6](\[O:8][H:10])[H:15])[O:7][H:9])([N:5]([H:11])[H:12])([H:13])[H:14]>>[C:1]([N:5]([H:11])[H:12])([C:6](/[C:4](=[N:3]\[C:2]([H:16])([H:17])[H:18])[O:7][H:9])([O:8][H:10])[H:15])([H:13])[H:14],55.54943750000263
MR_679773_1,[C:1]([O:3]/[C:2](=[N:5]/[H:9])[H:10])([O:4][H:6])([H:7])[H:8]>>[C:1]([O:4][H:6])([N:5]([C:2](=[O:3])[H:10])[H:9])([H:7])[H:8],39.78538250003183
MR_516764_0,[C:1]([N:3]([C:4]([C:2]([H:12])([H:13])[H:14])=[O:8])[O:5][N:6][O:7])([H:9])([H:10])[H:11]>>[C:1]([n:3]1[o:5][n:6]1[O:7][C:4]([C:2]([H:12])([H:13])[H:14])=[O:8])([H:9])([H:10])[H:11],59.434917500001774
MR_221931_1,[C:1]([C:4]([C:2]([H:15])([H:16])[H:17])=[O:9])([N:6]([H:11])[H:12])(/[N:8]=[C:5](\[C:3]([H:18])([H:19])[H:20])[N:7]([H:13])[H:14])[H:10]>>[C:1](\[N:6]([H:11])[H:12])(=[N:8]\[C:5]([C:3]([H:18])([H:19])[H:20])([C:4]([C:2]([H:15])([H:16])[H:17])=[O:9])[N:7]([H:13])[H:14])[H:10],71.92969750002277
MR_297779_0,[C:1]([O:3][C:2](=[O:5])[H:7])(=[O:4])[H:6]>>[C:1](=[O:3])([O:4][C:2](=[O:5])[H:7])[H:6],20.11513999997149
MR_429527_2,[C:1]([C:2]([H:11])([H:12])[H:13])([O:4][H:7])(/[N:6]=[C:3](/[O:5][H:8])[H:10])[H:9]>>[C:1](\[C:2]([H:11])([H:12])[H:13])([O:4][H:7])=[N:6]/[C:3]([O:5][H:8])([H:9])[H:10],62.25239250002218
